US07405300B2
1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde is reacted with 1-(2-aminoethyl)pyrrolidine as described in Step 2 of Example 29 to obtain oil. The oil is dissolved in small amount of methanol and treated with 1M ethereal hydrochloric acid. The solvents are removed and the residue is triturated with ether to yield 1-(4-tert-butylphenyl)-2-(2-pyrrolidin-1-yl-ethylamino)-1H-indole-3-carboxaldehyde hydrochloride (20% yield) as a light beige solid. ESI/MS 390 (M+H); RT 3.42 min. NMR 10.68 (1H, s); 7.95 (1H, d, J=9 Hz); 7.67 (2H, d, J=9 Hz); 7.47 (2H, d, J=9 Hz); 7.10 (2H, m); 6.63 (1H, d, J=9 Hz); 3.54 (2H, m); 3.40 (2H, m); 3.21 (2H, m); 2.83 (2H, m); 1.91 (4H, m); 1.35 (9H, s).

reactant | 1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)Cl | C19H18ClNO
reactant | 1-(2-aminoethyl)pyrrolidine | NCCN1CCCC1 | C6H14N2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-(4-tert-butylphenyl)-2-(2-pyrrolidin-1-yl-ethylamino)-1H-indole-3-carboxaldehyde hydrochloride | 20% yield | Cl.C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)NCCN1CCCC1 | InChI=1S/C25H31N3O.ClH/c1-25(2,3)19-10-12-20(13-11-19)28-23-9-5-4-8-21(23)22(18-29)24(28)26-14-17-27-15-6-7-16-27;/h4-5,8-13,18,26H,6-7,14-17H2,1-3H3;1H
